US07709494B2
2-Hex-5-enyloxy-4,5-diphenylpyrimidine
1.50 g (15 mmol) of 5-hexen-1-ol dissolved in 30 ml of dioxane were mixed with 600 mg (60%, 15 mmol) of sodium hydride and stirred at room temperature for 30 minutes. Addition of 1.7 g (7.5 mmol) of 2-chloro-4,5-diphenylpyrimidine was followed by stirring at room temperature for 6 hours. Taking up in MTBE and washing with saturated NaCl solution were followed by drying over sodium sulfate and evaporation. The residue was purified on silica gel with heptane/ethyl acetate (15:1). 1.93 g (77%) of the desired product were obtained.

reactant | 5-hexen-1-ol | 15 mmol, 1.50 g | C(CCCC=C)O | C6H12O
reactant | sodium hydride | 15 mmol, 600 mg | [H-].[Na+]
reactant | 2-chloro-4,5-diphenylpyrimidine | 7.5 mmol, 1.7 g | ClC1=NC=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2-Hex-5-enyloxy-4,5-diphenylpyrimidine | 1.93 g, 77% | C(CCCC=C)OC1=NC=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C22H22N2O
